US03992535
14.2 gm (0.1 mol) of methyl iodide were added dropwise, while stirring, to a solution of 11.6 gm (0.04 mol) of 2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal in a mixture of 150 ml of isopropanol, 44 ml of 1 N sodium hydroxide and 36 ml of water. The resulting mixture was allowed to stand overnight, and the crystals which separated out were suction-filtered off washed with a mixture of isopropanol an ater (ratio by volume 2:1) and dried in vacuo, yielding 11.6 gm (95% of theory) of 2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal, m.p. 169°-171° C.

reactant | methyl iodide | 0.1 mol, 14.2 gm | CI | CH3I
reactant | 2H-naphtho[2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 0.04 mol, 11.6 gm | C1COC2(CNS(C3=C2C=CC2=CC=CC=C23)(=O)=O)O1 | C14H13NO4S
reactant | sodium hydroxide | 1 N, 44 ml | [OH-].[Na+]
reactant | water | 36 ml | O | H2O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-4(3H)-one-1,1-dioxide-ethylene ketal | 11.6 gm, 95% | C1COC2(CN(S(C3=C2C=CC2=CC=CC=C23)(=O)=O)C)O1 | C15H15NO4S
